Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness
left face, arm, and leg weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: The patient is a ___ with hx of AS and AR, HTN, HLD, who
presents with L pressure headache and positional vertigo and
lightheadedness for 1 month, initially resolved for 2 weeks, 
then
returned 5 days ago with the gradual development of L arm
numbness/tingling, followed by L face and leg numbness/tingling. 


He was in his normal state of health until 30 days ago when he
started developing a gradual onset left-sided frontal 
pressure headache present for hours at a time. In addition to
this he started getting episodic positionally triggered episodes
of lightheadedness, vertigo, imbalance, blurry vision lasting
seconds, at maximum 30 seconds.  These episodes are triggered by
positional change from lying to sitting as well as from sitting
to lying.  He also noticed he could trigger an episode by moving
his head suddenly particularly towards the left.  The headache
had no positional component or nausea, photophobia, phonophobia.

He  presented to ___ with these symptoms and was
told he had a sinus infection and was treated with antibiotics
for 7 days.  He then became asymptomatic for around 2 weeks.

Last ___ on ___, he had difficulty sleeping and at around 2 
AM
he got up which triggered another episode of severe dizziness,
ago, diaphoresis, lightheadedness lasting for several seconds,
resolving when sitting still.  In this setting he started
noticing that he had some numbness/tingling in his left forearm
and hand.  He continued to have these episodes of positionally
triggered symptoms and a day and a half later he noticed that
both his left face and his left thigh also had numbness and
tingling.  Since then, he has had static symptoms of
numbness/tingling with exacerbations in severity of symptoms for
minutes to hours at a time.  He continues to have a left-sided
pressure type headache associated with left occipital pain, left
neck/paracervical musculature soreness and tension.  He has not
been sleeping well and in the setting has had some difficulty
with short-term memory.

He again presented to ___ 3 days ago where blood
pressure 162/98, exam significant for subjective sensation of
tingling over the left hemibody, blood work with hemoglobin 
17.7,
hematocrit 52 with an otherwise normal BMP and INR 1.0. 
Neurology evaluated the patient and found decreased sensation in
the face 20% of normal and decreased sensation in the left arm
50% of normal.  There was some concern for thalamic stroke. 
Noncontrast head CT was read as normal and MRI brain without
contrast showed no acute infarct, mass, intracranial hemorrhage. 

MRA head was also normal without any significant stenosis,
dissection, or aneurysm.  He was discharged on aspirin 81 with
the diagnosis of possible TIA vs hypoperfusion despite his
persisting symptoms.

He now presents due to persistent altered sensation and symptoms
of positional dizziness.
 
Past Medical History:
Hypertension
Hyperlipidemia
GERD
        
 
Social History:
___
Family History:
Both of his parents had a history of stroke causing left-sided
paralysis.
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity. Has some tenderness in the
paracervical musculature on the left neck and trap. 
Pulmonary: No increased work of breathing
Cardiac: RRR, systolic murmur.
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

___ - Had  symptoms of LH and vertigo to the left 
associated with rotatory nystagmus

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty.. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: face activates symmetrically 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___
L  5    ___   ___   5    5  5     5     5   5
R  5    ___   ___   5    5  5     5     5   5

-Sensory:  Decreased LT and temperature 80% of
normal in the L V2-V3, v70% of normal in left harm and 90% in 
left legOtherwise, PP intact. Joint position sense intact in 
toes
b/l to small movements.  No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2  2    2    3   1
Plantar response was flexor bilaterally. No ankle clonus. No
spasticity.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Romberg absent.
 
Pertinent Results:
MRI C-Spine: 
IMPRESSION:
 
 
1. Punctate focus of increased signal without definite 
enhancement within the
spinal cord at C3 level could be artifactual (given not clearly 
visualized on
multiple planes ) or could be due to postinflammatory changes.  
Follow-up
examination can be obtained as clinically indicated.
2. Mild degenerative changes.
3. No evidence of discitis, osteomyelitis or epidural abscess.
 
CTA Head and Neck: 
 
IMPRESSION:
 
 
1. Major intracranial and cervical arteries are patent without 
dissection.
 
 
Brief Hospital Course:
___ with hx of AS and AR, HTN, HLD, who presents with L pressure 
headache, muscle tension in the shoulder, positional dizziness, 
chronic (years) numbness in the hands, 5 days of L arm>face> leg 
numbness. 

He was admitted to the neurology service for further work up of 
his symptoms. His exam was normal except for a positive ___ 
___ to the left and subjectively decreased sensation to LT 
only in L arm>lower face>leg. He underwent CTA Head and Neck 
which was unremarkable. He also had MRI Brain at OSH that was 
unremarkable and did not reveal a thalamic or brainstem stroke. 
He had MRI C-spine with and without contrast that showed a 
punctate T2 hyperintensity (intramedullary) at C3. Upon further 
review with neuroradiology, it was felt that this most likely 
represented artifact but follow up imaging as an outpatient 
could be considered. 

After gathering further information with the interpreter at the 
bedside, we feel that the etiology of his dizzy spells is most 
likely benign paroxysmal positional vertigo. He had a positive 
___ with classical features on the left--this was much 
improved on the day of discharge. We discussed that his symptoms 
will improve with time and physical therapy (Epley).

Etiology of his sensory changes which exclusively affected light 
touch and were subtle is unclear. There was consideration of 
thalamic stroke but OSH MRI was negative and so was repeat CT. 
MRI C spine showed degenerative changes in his C-spine so it is 
possible that he has a radiculopathy, though this would not 
explain symptoms in the left leg. His work up was otherwise 
unrevealing. 

He was otherwise continued on his home medications, including 
recently started ASA. 

He will follow up in Neurology clinic within 1 month.

+++++++++++++++++++++++++++++++++++++++++

Transitional Issues: 
1. Neurology follow up: please call ___ if you do not 
hear about an appointment within ___ business days. 
2. Patient states he does not take any cholesterol medications. 
Patient should have lipid panel as an outpatient
3. Monitoring of clinical symptoms and repeat MRI C spine if 
symptoms increase.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Meclizine 25 mg PO TID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.Outpatient Physical Therapy
Diagnosis: Benign Paroxysmal positional vertigo , left side
Diagnosis code: ___
prognosis: good
 please evaluate and treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
benign paroxysmal positional vertigo, left side
cervical spondylosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the neurology service for further work up 
of your dizzy spell and left sided numbness.  You had an MRI or 
picture of your spine and CT of brain which did show anything to 
explain for symptoms.  

We think your dizzy spells are positional vertigo.  This is 
caused by a problem in your inner ear. It will improve with time 
and physical therapy.

Your MRI showed arthritis in your spine which is very common.  
This may be contributing to your neck/shoulder pain and numbness 
in your arm.

We will arrange for follow up in Neurology Clinic in a couple of 
weeks. If you do not hear from Neurology in a couple of days, 
please call ___. 

Please seek care should you develop severe headache, confusion, 
vision changes, changes in your speech, new or worsening 
numbness and tingling, weakness, changes in your walking or 
anything else new or concerning.

Have a great day!

___ Neurology 
 
Followup Instructions:
___